US04556660
A mixture of 6 parts of N-[1-[2-[(6-chloro-4-pyrimidinyl)amino]ethyl]-4-piperidinyl]-1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-amine, 2.5 parts of a sodium methoxide solution 30% and 40 parts of methanol was stirred and refluxed overnight. The reaction mixture was evaporated and water was added to the residue. The product was extracted with 4-methyl-2-pentanone. The extract was dried, filtered and evaporated. The residue was purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (90:10 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile, yielding 1.4 parts of 1-[(4-fluorophenyl)methyl]-N-[1-[2-[(6-methoxy-4-pyrimidinyl)amino]ethyl]-4-piperidinyl]-1H-benzimidazol-2-amine; mp. 145.8° C. (compound 98).

reactant | N-[1-[2-[(6-chloro-4-pyrimidinyl)amino]ethyl]-4-piperidinyl]-1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-amine | ClC1=CC(=NC=N1)NCCN1CCC(CC1)NC1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2 | C25H27ClFN7
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 1-[(4-fluorophenyl)methyl]-N-[1-[2-[(6-methoxy-4-pyrimidinyl)amino]ethyl]-4-piperidinyl]-1H-benzimidazol-2-amine | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCNC2=NC=NC(=C2)OC | C26H30FN7O
